US06359125B1
After 3.02 g(20 mmol) of guanine was added into 60 ml of DMF, 6.2 ml(44 mmol) of triethylamine and 4.6 ml(44 mmol) of isobutylyl chloride were added, and the reaction was carried out overnight at 120° C. with constant stirring. Then, the reaction temperature was lowered to room temperature and the reaction was stopped by addition of 20 ml of methanol. The reaction solution was concentrated under reduced vacuum, and precipitated by adding hot isopropanol. The precipitate was filtered and separated to obtain 1.84 g(8.32 mmol) of N2-(isobutanoyl) guanine as a white powder. To 1.83 g(8.27 mmol) of N2-(isobutanoyl) guanine, was added 50 ml of DMF and 0.40 g(10 mmol) of 60% NaH. The resulting suspension was stirred for 1 hour at room temperature, added 1.35 ml(9.14 mmol) of t-butylbromoacetate and mixed with constant stirring for 2 more hours at the same temperature. The resulting solution was then treated with CO2/methanol, concentrated under reduced vacuum to obtain the crude compound. The crude compound was extracted with ethylacetate, and the resulting organic phase layer was concentrated under reduced vacuum to give a mixture of N2-(isobutanoyl)-9-(t-butoxycarbonylmethyl) guanine and N2-(isobutanoyl)-7-(t-butoxycarbonylmethyl) guanine as a white powder. To the mixture, were added 50 ml of dichloromethane and 19 ml of TFA with stirring. The final reaction mixture was incubated for 2 days with constant stirring, and concentrated under reduced vacuum, to obtain a mixture of 1.5 g(5.64 mmol) of N2-(isobutanoyl)-9-(carboxylmethyl) guanine and N2-(isobutanoyl)-7-(carboxylmethyl) guanine. The said mixture was treated with ethylacetate to give a white precipitate, and filtered and dried under reduced vacuum, to give 0.72 g(2.57 mmol) of N2-(isobutanoyl)-9-(carboxylmethyl) guanine. 690 mg(2.47 mmol) of the said compound, 922 mg(2.99 mmol) of benzyl N-[2-(t-butoxyl)aminoethyl]glycinate and 577 mg(3.01 mmol) of EDC were dissolved in 20 ml of DMF, and the reaction mixture was stirred for 3 hours at room temperature with constant stirring. After DMF was removed under reduced vacuum, the resultant compound was extracted with ethylacetate, and the organic phase layer was concentrated under reduced vacuum. The crude compound was solubilized in 10 ml dichloromethane, and recrystallized in hexane to obtain white precipitate. The precipitate was separated and further purified through flash column chromatography by using a mobile phase of 10% methanol/dichloromethane to give 1.24 g(2.18 mmol) of benzyl N-[2-(t-butoxylcarbonyl)aminoethyl]-N-[(N2-(isobutanoyl)-guanine-9-yl)acetyl]glycinate. 25 ml of methanol was added to 1.22 g(2.14 mmol) of said compound, and then mixed with 0.25 g of 10% Pd/C with stirring. Under hydrogen environment created by hydrogen balloon, the reaction flask was stirred for 2 hours and 45 minutes. The catalyst was removed by filtering though celite, and the filtrate was concentrated under reduced vacuum. The crude compound was dissolved in ethylacetate and stirred overnight to obtain a white precipitate. The precipitate was filtered and dried to obtain 0.92 g(1.91 mmol) of N-[2-(t-butoxylcarbonyl)aminoethyl]-N-[(N2-(isobutanoyl)-guanine-9-yl)acetyl]glycine in a white powder form.

reactant | guanine | 20 mmol, 3.02 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 44 mmol, 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | isobutylyl chloride | 44 mmol, 4.6 ml | C(C(C)(C)Cl)Cl | C4H8Cl2
solvent | methanol | 20 ml | CO | CH4O
product | N2-(isobutanoyl) guanine | 8.32 mmol, 1.84 g | C(C(C)C)(=O)NC=1NC(C=2NC=NC2N1)=O | C9H11N5O2
